US07338791B2
Batch Fermentation with Eriodictyol as Substrate
Batch fermentations were prepared to determine the overall production of flavonoid compounds using commercially available (2S)-eriodictyol. An overnight preinnoculums of recombinant E. coli BL21Star (Invitrogen) was prepared carrying vectors pCDF-F and pCOLA-DL in LB or M9 minimal media. Antibiotics were added according to manufacturer's instructions (50 ug/mL streptomycin and 30 ug/mL kanamycin). The next day, 4 mL of the preinnoculum was used to seed 76 mL LB or M9 minimal media cultures. The culture was grown in an incubator at 37° C. until OD600 reaches about 0.6. Gene expression was induced by 1 mM ITPG and the cultures were grown at 27° C. with horizontal shaking for 4 hours. (2S)-Eriodictyol dissolved in DMSO was added to a final concentration of 0.2 mM. The cultures were incubated at 27° C. for 72 hours.

reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
reactant | ITPG | 1 mM | CC(C(=N)N)C(=S)NCC(=O)O | C6H11N3O2S
reactant | DMSO | CS(=O)C | C2H6OS
product | Eriodictyol | C1=CC(=C(C=C1[C@@H]2CC(=O)C=3C(=CC(=CC3O2)O)O)O)O | C15H12O6
